US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-5-methyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one
To a suspension of 1-(2,3-dichloro-phenyl)-piperazine hydrochloride (0.93 g, 3.48 mmol) in dichloroethane (10 mL) was added Et3N (0.96 mL, 6.92 mmol). The mixture was stirred for 15 min and a suspension of 4-(4-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (0.86 g, 3.46 mmol) in dichloroethane (5 mL) was added. After 20 min at RT, NaBH(OAc)3 (1.03 g, 4.85 mmol) was added and the reaction was stirred at room temperature for 4 h. The reaction mixture was poured into CH2Cl2 and washed with H2O, 1N citric acid, saturated NaHCO3 and brine, dried over Na2SO4 and concentrated to an oil. Et2O was added and the organics were decanted from an insoluble gum. The filtrate yielded a crystalline solid, which was collected by filtration and dried. Purification by liquid chromatography (gradient elution, 100% CHCl3 to 2% MeOH/CHCl3, Biotage 40m column) provided the title compound as a white solid (1.12 g, 2.44 mmol, 70%). MS: APCI: M+1: 463.1 (Exact Mass: 462.16).

reactant | 1-(2,3-dichloro-phenyl)-piperazine hydrochloride | 3.48 mmol, 0.93 g | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | Et3N | 6.92 mmol, 0.96 mL | CCN(CC)CC | C6H15N
reactant | 4-(4-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 3.46 mmol, 0.86 g | CC1=CC(=NC=2NC(CCC12)=O)OCCCC=O | C13H16N2O3
reactant | NaBH(OAc)3 | 4.85 mmol, 1.03 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-5-methyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 2.44 mmol, 1.12 g, 70% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC(=C2CCC(NC2=N1)=O)C | C23H28Cl2N4O2
